US06559169B2
3-(1-{[7-Methoxy-2,3-dihydro-1,4-benzodioxin-2-yl]methyl}-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole
[(2R)-7-Methoxy-2,3-dihydro-benzo[1,4]dioxin-2-yl]methyl 4-methylbenzenesulfonate (1.5 g, 4.3 mmole) was dissolved in a mixture of dimethylformamide/tetrahydrofuran (1:1 v/v, 30 mL) and 3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole (0.80 g, 4.0 mmole) added, followed by sodium bicarbonate (1.0 g), and the mixture was refluxed under nitrogen for 18 hours. The solvent was removed under vacuum and the residue partitioned between 400 mL each of methylene chloride and water. The layers were separated and the organic phase was washed with water and saturated sodium chloride solution, dried over potassium carbonate and filtered. The filtrate was evaporated to a foam (1.6 g). Chromatography on silica gel using 4% methanol in chloroform as eluant gave 0.20 g of the (S)-enantiomer of the title compound as a yellow solid, m.p. 166-168° C.

reactant | [(2R)-7-Methoxy-2,3-dihydro-benzo[1,4]dioxin-2-yl]methyl 4-methylbenzenesulfonate | 4.3 mmole, 1.5 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC2=C(O1)C=C(C=C2)OC | C17H18O6S
reactant | 3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole | 4.0 mmole, 0.80 g | N1CCC(=CC1)C1=CNC2=CC=CC=C12 | C13H14N2
reactant | sodium bicarbonate | 1.0 g | C([O-])(O)=O.[Na+]
solvent | dimethylformamide tetrahydrofuran | 30 mL | CN(C=O)C.O1CCCC1
product | 3-(1-{[7-Methoxy-2,3-dihydro-1,4-benzodioxin-2-yl]methyl}-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | COC=1C=CC2=C(OC(CO2)CN2CCC(=CC2)C2=CNC3=CC=CC=C23)C1 | C23H24N2O3
